US07557114B2
d) 2-Methoxy-5-methylsulfamoyl-benzoic acid methyl ester
To 2.04 mmol 2-hydroxy-5-methylsulfamoyl-benzoic acid methyl ester, 2.2 mmol methanol and 2.34 mmol triphenylphosphine in 10 ml THF was added 2.24 mmol di-tert-butyl azodicarboxylate and the mixture was stirred at RT for 2 h. The mixture was then concentrated in vacuo. The residue was chromatographed on silica gel (eluant: ethyl acetate/heptane) to afford the title compound.

reactant | 2-hydroxy-5-methylsulfamoyl-benzoic acid methyl ester | 2.04 mmol | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)O)=O | C9H11NO5S
reactant | methanol | 2.2 mmol | CO | CH4O
reactant | triphenylphosphine | 2.34 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 2.24 mmol | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Methoxy-5-methylsulfamoyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)OC)=O | C10H13NO5S
